US06225309B1
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with (2RS,5SR)-2,5-dimethyl-1-(2-naphthylsulphonyl)piperazine to give (2RS,5SR)-2,5-dimethyl-1-(2-naphthylsulphanyl)-4-[1-(4-pyridyl)-piperidin-4-ylcarbonyl)piperazine in 13% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | (2RS,5SR)-2,5-dimethyl-1-(2-naphthylsulphonyl)piperazine | CC1N(CC(NC1)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H20N2O2S
product | (2RS,5SR)-2,5-dimethyl-1-(2-naphthylsulphanyl)-4-[1-(4-pyridyl)-piperidin-4-ylcarbonyl)piperazine | 13% yield | CC1N(CC(N(C1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C)SC1=CC2=CC=CC=C2C=C1 | C27H32N4OS
